US07781428B2
(±)-(3SR,3aRS)-cyclohexylmethyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate
The title compound was prepared from (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid, Example 15 and cyclohexylmethanol according to Method E (yellow solid, 165 mg, 0.320 mmol, 67% yield). ES-HRMS m/z calc. for C31H35ClN3O2 (M+H) 516.2412, found 516.2403.

reactant | (±)-(3SR,3aRS)-2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylic acid | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)O | C24H22ClN3O2
reactant | cyclohexylmethanol | C1(CCCCC1)CO | C7H14O
product | (±)-(3SR,3aRS)-cyclohexylmethyl 2-(3-chloro-4-cyanophenyl)-3-cyclopentyl-3,3a,4,5-tetrahydro-2H-benzo[g]indazole-7-carboxylate | 67% yield | ClC=1C=C(C=CC1C#N)N1N=C2C3=C(CCC2C1C1CCCC1)C=C(C=C3)C(=O)OCC3CCCCC3 | C31H34ClN3O2
